US04173633
The starting material is prepared as follows: 19.2 ml of tetramethyl-ethylenediamine are added under nitrogen to 53.3 ml of 2.4 M n-butyl lithium in hexane at room temperature and the mixture is allowed to react for 15 minutes. Thereupon the solution of 10.9 g of 1-(2-isopropylaminopropyl)-3,4,5,5a,6,7-hexahydro-9-methoxy-2H-naphth[1,2-d]azepin-2-one in 160 ml of anhydrous tetrahydrofuran is added dropwise. The mixture is refluxed for 30 minutes and subsequently cooled in an ice bath. 120 ml of water are added dropwise and the mixture is stirred with cooling for 30 minutes. The precipitate is collected, washed with water and diethyl ether and dried, to yield the 1-methyl-9-methoxy-3,4,5,5a,6,7-hexahydro-2H-naphth[1,2-d]azepin-2-one melting at 215°-218°.

reactant | tetramethyl-ethylenediamine | 19.2 ml | CN(CCN(C)C)C | C6H16N2
reactant | n-butyl lithium | 2.4 M, 53.3 ml | C(CCC)[Li]
reactant | 1-(2-isopropylaminopropyl)-3,4,5,5a,6,7-hexahydro-9-methoxy-2H-naphth[1,2-d]azepin-2-one | 10.9 g | C(C)(C)NC(CC=1C(NCCC2C1C1=CC=C(C=C1CC2)OC)=O)C | C21H30N2O2
reactant | water | 120 ml | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 160 ml | O1CCCC1 | C4H8O
product | 1-methyl-9-methoxy-3,4,5,5a,6,7-hexahydro-2H-naphth[1,2-d]azepin-2-one | CC=1C(NCCC2C1C1=CC=C(C=C1CC2)OC)=O | C16H19NO2
